US09085555B2
A. (1R,3S,5R)-2-[2-(3-Acetyl-5-benzyloxy-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide
To a solution of (3-acetyl-5-benzyloxy-indazol-1-yl)-acetic acid (1.38 g, 4.30 mmol, prepared as described in Part A), (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoro methoxy-phenyl)-amide trifluoroacetate (1.80 g, 4.30 mmol) and propylphosphonic anhydride (50% in EtOAc, 3.80 ml, 6.46 mmol) in CH2Cl2 (40 ml) was added DIPEA (2.25 mL, 12.91 mmol) and the resulting mixture was stirred at RT for 2 h. The mixture was concentrated and the crude residue was purified by flash column chromatography on silica gel (c-hexane/EtOAc 1:0 to 0:1). MS (UPLC-MS): 611 [M+H]+; tR (HPLC conditions f): 2.40 min.

reactant | (3-acetyl-5-benzyloxy-indazol-1-yl)-acetic acid | C(C)(=O)C1=NN(C2=CC=C(C=C12)OCC1=CC=CC=C1)CC(=O)O | C18H16N2O4
reactant | (1R,3S,5R)-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoro methoxy-phenyl)-amide trifluoroacetate | 4.30 mmol, 1.80 g | FC(C(=O)O)(F)F.FC1=C(C=CC=C1OC(F)(F)F)NC(=O)[C@H]1N[C@@H]2C[C@@H]2C1
reactant | propylphosphonic anhydride | 6.46 mmol, 3.80 ml | CCCP(=O)=O | C3H7O2P
reactant | DIPEA | 12.91 mmol, 2.25 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | CH2Cl2 | 40 ml | C(Cl)Cl | CH2Cl2
product | (1R,3S,5R)-2-[2-(3-Acetyl-5-benzyloxy-indazol-1-yl)-acetyl]-2-aza-bicyclo[3.1.0]hexane-3-carboxylic acid (2-fluoro-3-trifluoromethoxy-phenyl)-amide | FC1=C(C=CC=C1OC(F)(F)F)NC(=O)[C@H]1N([C@@H]2C[C@@H]2C1)C(CN1N=C(C2=CC(=CC=C12)OCC1=CC=CC=C1)C(C)=O)=O | C31H26F4N4O5
